US06921821B2
3-Methanesulfonyloxy-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester
To a solution of 3-hydroxy-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester (1.250 g, 6.28 mmol) in dichloromethane (62 mL) was added triethylamine (1.40 mL, 10.0 mmol) and methanesulfonyl chloride (0.722 mL, 9.38 mmol) dropwise. The solution was stirred 2 hrs, washed with sodium bicarbonate, dried over MgSO4, filtered, and concentrated. The crude oil (1.74 g) was taken on with no purification. 1H NMR (300 MHz, CDCl3) δ ppm 1.26 (t, J=7.1 Hz, 3H), 2.04 (m, 6H), 2.18 (m, 2H), 3.02 (s, 3H), 4.14 (q, J=7.1 Hz, 2H), 4.29 (m, 2H), 5.02 (m, 1H); MS (ESI+Q1MS) m/z 278 [M+H]+

reactant | 3-hydroxy-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester | 6.28 mmol, 1.250 g | C(C)OC(=O)N1C2CC(CC1CC2)O | C10H17NO3
reactant | triethylamine | 10.0 mmol, 1.40 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.38 mmol, 0.722 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 62 mL | ClCCl | CH2Cl2
product | 3-Methanesulfonyloxy-8-aza-bicyclo[3.2.1]octane-8-carboxylic acid ethyl ester | C(C)OC(=O)N1C2CC(CC1CC2)OS(=O)(=O)C | C11H19NO5S
